US20010011085A1
(6R,7S)-7-Methoxy-3-methyl-4-(1-methyl-1H-tetrazol-5-ylsulfanyl)-5,5,8-trioxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carbothioic Acid S-tert-butyl Ester (Compound 6).
A solution of toluene-4-thiosulfonic acid S-(1-methyl-1H-tetrazol-5-yl) ester (50 mg) and (6R,7S)-7-methoxy-3-methyl-5,5,8-trioxo-5-thia-1-aza-bicyclo[ 4.2.0]oct-2-ene-2-carbothioic acid S-tert-butyl ester (50 mg) in acetonitrile (2.5 ml) was treated with 1,5-diazabicyclo[4,3,0]non-5-ene (25 μl) and let stand at room temperature for 2 hours. The reaction mixture was poured into EtOAc/0.5N hydrochloric acid. The organic phase was washed twice with water, dried (Na2SO4) and concentrated under vacuum. The residue was flash chromatographed over SiO2 eluting with EtOAc/n-hexane 1:1. The title product was obtained as a white foam (48 mg).

reactant | toluene-4-thiosulfonic acid S-(1-methyl-1H-tetrazol-5-yl) ester | 50 mg | CN1N=NN=C1SS(=O)(=O)C1=CC=C(C=C1)C | C9H10N4O2S2
reactant | (6R,7S)-7-methoxy-3-methyl-5,5,8-trioxo-5-thia-1-aza-bicyclo[ 4.2.0]oct-2-ene-2-carbothioic acid S-tert-butyl ester | 50 mg | C(C)(C)(C)SC(=O)C=1N2C([C@@H]([C@H]2S(CC1C)(=O)=O)OC)=O | C13H19NO5S2
reactant | 1,5-diazabicyclo[4,3,0]non-5-ene | 25 μl | N12CCCN=C2CCC1 | C7H12N2
reactant | EtOAc | 0.5N | CCOC(=O)C | C4H8O2
solvent | acetonitrile | 2.5 ml | C(C)#N | C2H3N
product | (6R,7S)-7-Methoxy-3-methyl-4-(1-methyl-1H-tetrazol-5-ylsulfanyl)-5,5,8-trioxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carbothioic Acid S-tert-butyl Ester | C(C)(C)(C)SC(=O)C=1N2C([C@@H]([C@H]2S(C(C1C)SC1=NN=NN1C)(=O)=O)OC)=O | C15H21N5O5S3
